US05866589
1-Benzyl-4-[N-(1-methylethyl)-N-(3-nitro-2-pyridinyl)amino]piperidine
Following the general procedure of EXAMPLE 70, and making non-critical variations but substituting 1-benzyl-4-(1-methylethylamino)piperidine (EXAMPLE 99) for 1-benzyl-4-(methylamino)piperidine and 2-chloro-3-nitropyridine for 2-bromo-3-ethoxypyridine and using a reaction time of 2 hrs, the title compound is obtained, NMR (CDCl3) 8.24, 7.90, 7.31-7.23, 6.62, 3.61, 3.49, 2.97, 2.27, 1.96, 1.77 and 1.39δ.

reactant | 1-benzyl-4-(methylamino)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)NC | C13H20N2
reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-bromo-3-ethoxypyridine | BrC1=NC=CC=C1OCC | C7H8BrNO
product | 1-Benzyl-4-[N-(1-methylethyl)-N-(3-nitro-2-pyridinyl)amino]piperidine | C(C1=CC=CC=C1)N1CCC(CC1)N(C1=NC=CC=C1[N+](=O)[O-])C(C)C | C20H26N4O2
